US07109354B2
The procedure as in Example 20: step a was followed using 4-bromo-5-nitro-thiophene-2-carboxylic acid methyl ester ((Example 114, step c) 200 mg, 0.75 mmol) and 2-methoxy-benzenethiol (109 μL, 1.25 mmol, Aldrich Chemical Company) to isolate 4-(2-methoxy-phenylsulfanyl)-5-nitro-thiophene-2-carboxylic acid methyl ester. 4-(2-Methoxy-phenylsulfanyl)-5-nitro-thiophene-2-carboxylic acid methyl ester (200 mg, 0.61 mmol) was then treated with TiCl3 (20% aq. HCl solution, 5 mL, 6.1 mmol) in THF (6 mL). The reaction was stirred for 20 minutes at rt. The reaction mixture was concentrated in vacuo and then dissolved into EtOAc. The organic layer was washed several times with saturated NaHCO3. The combined organic layers were dried over sodium sulfate. Removal of the solvents in vacuo yielded 5-amino-4-(2-methoxy-phenylsulfanyl)-thiophene-2-carboxylic acid methyl ester. The procedure as in Example 20: step e was followed using 5-amino-4-(2-methoxy-phenylsulfanyl)-thiophene-2-carboxylic acid methyl ester (160 mg, 0.54 mmol), t-butylnitrite (96 μL, 0.81 mmol), and copper (II) bromide (112.6 mg, 0.65 mmol) resulting in 5-bromo-4-(2-methoxy-phenylsulfanyl)-thiophene-2-carboxylic acid methyl ester. The procedure as in Example 20: step b was followed using 5-bromo-4-(2-methoxy-phenylsulfanyl)-thiophene-2-carboxylic acid methyl ester (18 mg, 0.05 mmol) and m-CPBA (32 mg, 0.25 mmol) resulting in 5-bromo-4-(2-methoxy-benzenesulfonyl)-thiophene-2-carboxylic acid methyl ester. The procedure as in Example 20: step f was followed using 5-bromo-4-(2-methoxy-benzenesulfonyl)-thiophene-2-carboxylic acid methyl ester (45 mg, 11 mmol) and dimethyl aluminum amide (1M, 0.57 mL, 0.55 mmol) resulting in the title compound 5-bromo-4-(2-methoxy-benzenesulfonyl)-thiophene-2-carboxamidine (4 mg, 13%). 1H-NMR (CD3OD): δ: 8.30 (s, 1H), 8.12–8.14 (d of d, J=6.1, 1.8 Hz, 1H), 7.70–7.74 (m, 1H), 7.16–7.24 (m, 2H), 3.79 (s, 3H).

reactant | 4-(2-Methoxy-phenylsulfanyl)-5-nitro-thiophene-2-carboxylic acid methyl ester | 0.61 mmol, 200 mg | COC(=O)C=1SC(=C(C1)SC1=C(C=CC=C1)OC)[N+](=O)[O-] | C13H11NO5S2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-amino-4-(2-methoxy-phenylsulfanyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1)SC1=C(C=CC=C1)OC)N | C13H13NO3S2
